US05439930
a) N-benzoyl-L-proline
To a well-stirred solution of L-proline (5.75 g, 0.05 mmole) in 2N NaOH (25 ml), 4N NaOH (12.5 ml) and benzoyl chloride (5.8 ml, 0.05 mole) were added dropwise from different drop funnels, maintaining the temperature near 0°-4° C. The mixture after 15 minutes was acidified with 1N HCl. The resulting oil was extracted with CHCl3, the combined organic extract was dried (MgSO4), and the solvent was removed. Ether was added to the residue and the mixture was allowed to stand overnight at 0° C. The crystals of N-benzoyl-L-proline were separated. Yield 3.42 g (60%), m.p. 152°-154° C., [α]D20 -68.5° (c 0.4; CHCl3); Rf 0.13 (Kiesel-gel, CHCl3 --CH3OH, 9:1). Analysis Calcd. for C12H13NO3 : C, 65.73; H, 5.99; N, 6.39. Found: C, 65.64; H, 6.03; N, 6.54.

reactant | L-proline | 0.05 mmole, 5.75 g | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | benzoyl chloride | 0.05 mole, 5.8 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | HCl | 1N | Cl | ClH
solvent | NaOH | 2N, 25 ml | [OH-].[Na+]
solvent | NaOH | 4N, 12.5 ml | [OH-].[Na+]
product | N-benzoyl-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)CCC1 | C12H13NO3
